US05376681
2,4,6,7-Tetramethyl-2-[2-(dimethylamino)ethyl]-2,3-dihydrobenzofuran
N,N-dimethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl acetamide (3.1 g, 11.9 mmol) was dissolved in tetrahydrofuran (50 ml) and lithium aluminum hydride (0.45 g) was added slowly under cooling. The reaction mixture was stirred for 30 minutes at room temperature and then poured into ice-cold water. The product was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (chloroform-methanol, 95:5) to obtain the desired compound (2.2 g, yield: 81.6%) as oil.

reactant | N,N-dimethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl acetamide | 11.9 mmol, 3.1 g | CN(C(CC1(OC2=C(C1)C(=CC(=C2C)C)C)C)=O)C | C16H23NO2
reactant | lithium aluminum hydride | 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4,6,7-Tetramethyl-2-[2-(dimethylamino)ethyl]-2,3-dihydrobenzofuran | 2.2 g, yield: 81.6% | CC1(OC2=C(C1)C(=CC(=C2C)C)C)CCN(C)C | C16H25NO
